US05491144
a) 4,5-bis(2,4-dimethoxy-anilino)phthalic acid
A steady stream of argon is passed through a suspension of 260 mg (0.6 mmol) of 4,5-bis(2,4-dimethoxy-anilino)phthalic acid dimethylester in 2 mlof methanol, and a solution of 101 mg (2.4 mmol, 4 eq) of lithium hydroxidemonohydrate and 10 mg sodium ascorbate in 1 ml of water is added. The reaction mixture is heated to reflux for 10 hours, cooled to RT, and the methanol is removed by evaporation. The resulting mixture is poured onto 20 ml of 4N hydrochloric acid, the red suspension is filtered and the crystals are washed with washed with isopropanol/hexane 1:5 to yield the title compound in the form of red crystals, FAB-MS: 469 [M+ +H].

reactant | 4,5-bis(2,4-dimethoxy-anilino)phthalic acid dimethylester | 0.6 mmol, 260 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=C(C=C(C=C1)OC)OC)NC1=C(C=C(C=C1)OC)OC)=O | C26H28N2O8
reactant | methanol | CO | CH4O
reactant | lithium | 2.4 mmol, 101 mg, 4 eq | [Li] | Li
reactant | sodium ascorbate | 10 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | water | 1 ml | O | H2O
product | 4,5-bis(2,4-dimethoxy-anilino)phthalic acid | COC1=C(NC=2C=C(C(C(=O)O)=CC2NC2=C(C=C(C=C2)OC)OC)C(=O)O)C=CC(=C1)OC | C24H24N2O8
